US04539325
A mixture of 20 parts of 1-(4-bromo-2-chlorophenyl)-2-(1H-1,2,4-triazol-1-yl)ethanone, 40 parts of pentachlorophosphorane and 300 parts of 1,2-dichloroethane was stirred and relfuxed overnight. 300 Parts of potassium carbonate and 650 parts of dichloromethane were added and water was added dropwise carefully till a volume of about 1500 parts. The aqueous phase was extracted with dichloromethane. The combined organic layers were washed with water, dried, filtered and evaporated. The residue was purified by reversed phase chromatography (HPLC) over LiChroprep RP 18 using a mixture of 75% of methanol containing 0.1% of N-(1-methylethyl)-2-propanamine and 25% of water containing 0.5% of ammonium acetate. The first fraction (E-isomer) was collected and the eluent was evaporated. The residue was crystallized from hexane at 0° C. The product was filtered off and dried in vacuo at 60° C., yielding 7.9 parts (37%) of (E)-1-[2-(4-bromo-2-chlorophenyl)-2 -chloroethenyl]-1H-1,2,4-triazole; mp. 84.0° C. (compound 44). The second fraction (Z-isomer) was collected and the eluent was evaporated. The residue was crystallized from hexane at 0° C. The product was filtered off and dried in vacuo at 60° C., yielding 0.36 parts of (Z)-1-[2-(4-bromo-2-chlorophenyl)-2-chloroethenyl]-1H-1,2,4-triazole; mp. 96.0° C. (compound 45).

reactant | 1-(4-bromo-2-chlorophenyl)-2-(1H-1,2,4-triazol-1-yl)ethanone | BrC1=CC(=C(C=C1)C(CN1N=CN=C1)=O)Cl | C10H7BrClN3O
reactant | pentachlorophosphorane | ClP(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (E)-1-[2-(4-bromo-2-chlorophenyl)-2 -chloroethenyl]-1H-1,2,4-triazole | 37% | BrC1=CC(=C(C=C1)\C(=C/N1N=CN=C1)\Cl)Cl | C10H6BrCl2N3
